US09315521B2
A mixture 3-(bromomethyl)pyridin-1-ium bromide (550 mg, 2.5 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (285 mg, 2.0 mmol), and triethylamine (1.1 mL, 8.0 mmol) in absolute ethanol (10 mL) was stirred at room temperature overnight. The solid residue was removed by filtration. The filtrate was recovered and evaporated under reduced pressure. The solid product was suspended in acetone (50 mL). The solid material was removed by filtration. The filtrate was recovered and evaporated to dryness. The residue was suspended in water (50 mL). The product was recovered by filtration, washed with diethyl ether (2×20 mL), and dried in vacuo, affording 6-methyl-2-[(pyridin-3-ylmethyl)sulfanyl]pyrimidin-4-ol (181 mg, 39% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 4.36 (s, 2H), 6.00 (s (br), 1H), 7.32 (td, 1H, J=0.8 Hz, 7.8 Hz), 7.82 (dd, 1H, J=0.8 Hz, 7.8 Hz), 8.42 (dd, 1H, J=0.8 Hz, 4.7 Hz), 8.61 (d, 1H, J=1.8 Hz); M+234; HPLC purity: 98.1%.

reactant | 3-(bromomethyl)pyridin-1-ium bromide | 2.5 mmol, 550 mg | [Br-].BrCC=1C=[NH+]C=CC1
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 2.0 mmol, 285 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 8.0 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-methyl-2-[(pyridin-3-ylmethyl)sulfanyl]pyrimidin-4-ol | 181 mg, 39% yield | CC1=CC(=NC(=N1)SCC=1C=NC=CC1)O | C11H11N3OS
